US06133260
Example 14 6-Fluoro-1-((1R,2S)-2-fluorocyclopropyl)-7-((1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]nonan-8-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid
The title compound is prepared analogously to the procedure of Example 8 by reaction of 6,7-difluoro-1-((1R,2S)-2-fluorocyclopropyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid with (1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]nonane.

reactant | 6,7-difluoro-1-((1R,2S)-2-fluorocyclopropyl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | FC=1C=C2C(C(=CN(C2=CC1F)[C@H]1[C@H](C1)F)C(=O)O)=O | C13H8F3NO3
reactant | (1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]nonane | [C@H]12OCCN[C@H]2CNC1 | C6H12N2O
product | 6-Fluoro-1-((1R,2S)-2-fluorocyclopropyl)-7-((1S,6S)-2-oxa-5,8-diazabicyclo[4.3.0]nonan-8-yl)-1,4-dihydro-4-oxo-3-quinolinecarboxylic Acid | FC=1C=C2C(C(=CN(C2=CC1N1C[C@@H]2NCCO[C@H]2C1)[C@H]1[C@H](C1)F)C(=O)O)=O | C19H19F2N3O4
